US08957105B2
Synthesis of ethyl 3-(1-(4-carbamoyl-2-methylphenyl)-5-(4-(2-oxooxazolidin-3-yl)phenyl)-1H-pyrrol-2-yl)propanoate
To a solution of ethyl 4,7-dioxo-7-(4-(2-oxooxazolidin-3-yl)phenyl)heptanoate (158 mg, 0.43 mmol) and 4-amino-3-methylbenzamide (130 mg, 0.68 mmol) in EtOH (1 mL) was added Zn(OTf)2 (313 mg, 0.86 mmoL). The mixture was heated to 120° C. under microwave for 2 h. After evaporation under reduced pressure, the crude product was purified by silica gel column chromatography (DCM:MeOH=20:1) to afford the titled compound as a yellow solid (77 mg, yield 39%).

reactant | ethyl 4,7-dioxo-7-(4-(2-oxooxazolidin-3-yl)phenyl)heptanoate | 0.43 mmol, 158 mg | O=C(CCC(=O)OCC)CCC(C1=CC=C(C=C1)N1C(OCC1)=O)=O | C18H21NO6
reactant | 4-amino-3-methylbenzamide | 0.68 mmol, 130 mg | NC1=C(C=C(C(=O)N)C=C1)C | C8H10N2O
solvent | EtOH | 1 mL | CCO | C2H6O
catalyst | Zn(OTf)2 | 313 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Zn+2]
product | ethyl 3-(1-(4-carbamoyl-2-methylphenyl)-5-(4-(2-oxooxazolidin-3-yl)phenyl)-1H-pyrrol-2-yl)propanoate | 77 mg, yield 39% | C(N)(=O)C1=CC(=C(C=C1)N1C(=CC=C1C1=CC=C(C=C1)N1C(OCC1)=O)CCC(=O)OCC)C | C26H27N3O5
